* A dual opamp ngspice model
* file name: LM358-dual.lib
.subckt LM358c 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include lm358-spice-model.lib
XU1A 1in+ 1in- vcc+ vcc- 1out LM358
XU1B 2in+ 2in- vcc+ vcc- 2out LM358
.ends